US04859607
All reagents were the purest commercially available grade and deionized water was used throughout the preparation. The synthesis was a modification of the Hunig and Fritsch method for the preparation of MBTH-formaldehyde condensation product (Liebigs, Ann. Chem., 1957, 609, 172). 3-Methyl-2-benzothiazolinone hydrazone hydrochloride (Aldrich), 4.0 g, was dissolved in 200 mL of water with stirring and the free base precipitated by the addition of 10 mL of concentrated ammonium hydroxide solution. The crystalline product was filtered with suction and washed until the wash water no longer tested alkaline with pH indicator paper. The solid product was then vacuum dried at room temperature, and dissovled with vigorous shaking in 100 mL of absolute ethanol in a 250 mL round-bottom flask. To this solution, 20 mL of acetone and 10 mL of glacial acetic acid were added, and the solution refluxed over a boiling water bath for 0.5 h. After cooling to room temperature; the slow addition of 300 mL of water produced a white product which, upon filtering and drying at room temperature, was obtained in nearly theoretical yield as 3-methyl-2-benzothiazolinone acetone azine. The product was sufficiently pure for use but it may be further purified by recrystallization for cyclohexanol.

reactant | MBTH formaldehyde | CN\1C2=CC=CC=C2S/C1=N\N.C=O
reactant | 3-Methyl-2-benzothiazolinone hydrazone hydrochloride | Cl.CN1C(SC2=C1C=CC=C2)=NN
solvent | water | 200 mL | O | H2O
product | 3-methyl-2-benzothiazolinone acetone azine | CC(=N/N=C\1/N(C2=CC=CC=C2S1)C)C | C11H13N3S
